US05730901
Preparation of 4'-(trans-4-(3-methyl-n-butyl)-4-silacyclohexyl)-4-(1,2-difluorovinyl)biphenyl
The general procedure of Example 35 was repeated using 4-(3-methylbutyl)-4-phenyl-4-silacyclohexanone instead of 4-pentyl-4-phenyl-4-silacyclohexanone and 4-bromo-1-(1,2-difluorovinyl)benzene instead of 4-bromo-2,6-difluoro-1-(2,2-difluorovinyloxy)benzene, thereby obtaining the intended compound.

reactant | 4-(3-methylbutyl)-4-phenyl-4-silacyclohexanone | CC(CC[Si]1(CCC(CC1)=O)C1=CC=CC=C1)C | C16H24OSi
reactant | 4-bromo-1-(1,2-difluorovinyl)benzene | BrC1=CC=C(C=C1)C(=CF)F | C8H5BrF2
product | 4'-(trans-4-(3-methyl-n-butyl)-4-silacyclohexyl)-4-(1,2-difluorovinyl)biphenyl | CC(CC[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=CF)F)C | C24H30F2Si
